US04760146
Ethyl 1-(3-chloropropyl)-6-phenyl-3-cyclohexene-1-carboxylate (8.65 g, 29.4 mmol) dissolved in toluene (200 ml) was added dropwise to a 1.0M stock solution of diisobutylaluminum hydride (DIBAL, 2.2 equiv., 64.6 ml). The contents were stirred for 16 hrs. under N2 at ambient temperature. The reaction was then chilled to 0° C. and water (100 ml) added. The resulting precipitate was filtered off and the filtrate was dried over MgSO4, filtered, and concentrated in vacuo to afford 7.21 g (92% yield) of 1-(3-chloropropyl)-6-phenyl-3-cyclohexene-1-methanol as a clear mobile oil. Infrared spectroscopy indicated the disappearance of an ester carbonyl band and the appearance of hydroxyl stretching between 3200-3400 cm-1. To this alcohol (27 mmol) dissolved in acetone (100 ml) and cooled to 0° C. was added Jones reagent (2.67M, 2.0 equiv., 20.3 ml). The contents were stirred for 2 hr. at which time isopropyl alcohol (20 ml) was added to quench unreacted Jones reagent. The solution was concentrated in vacuo. The residue was washed with water and extracted three times with 100 ml of ethyl ether. The combined organic extracts were dried over MgSO4, filtered through celite and concentrated in vacuo to afford 1-(3-chloropropyl)-6-phenyl-3-cyclohexene-1-carboxylic acid (4.95 g, 87% yield) as a clear viscous oil. Infrared spectroscopy indicated the appearance of the carboxyl stretch at 1700 cm-1.

reactant | Ethyl 1-(3-chloropropyl)-6-phenyl-3-cyclohexene-1-carboxylate | 29.4 mmol, 8.65 g | ClCCCC1(CC=CCC1C1=CC=CC=C1)C(=O)OCC | C18H23ClO2
reactant | diisobutylaluminum hydride | 64.6 ml, 2.2 equiv. | [H-].C(C(C)C)[Al+]CC(C)C
reactant | water | 100 ml | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3-chloropropyl)-6-phenyl-3-cyclohexene-1-methanol | 7.21 g, 92% yield | ClCCCC1(CC=CCC1C1=CC=CC=C1)CO | C16H21ClO
